US08445690B2
5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[(pyrimidin-5-ylmethyl)-amino]-thiazol-4-one was prepared from 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-methylsulfanyl-thiazolidin-4-one and C-Pyrimidin-5-yl-methylamine following General Procedure B.

reactant | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-methylsulfanyl-thiazolidin-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)SC)=O)C=C1)C(F)(F)F | C20H15ClF3N3OS2
reactant | C-Pyrimidin-5-yl-methylamine | N1=CN=CC(=C1)CN | C5H7N3
product | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[(pyrimidin-5-ylmethyl)-amino]-thiazol-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)NCC=2C=NC=NC2)=O)C=C1)C(F)(F)F | C24H16ClF3N6OS
